US05514719
500 ml of 1,2-dichloroethane, 60 g (0.184 mol) of 2-(3,4-dimethoxyphenyl)-4-(trifluoromethyl)benzoic acid and 5 ml of N,N-dimethylformamide are introduced successively into a 1000 ml round-bottomed flask. 20 ml of thionyl chloride (0.276 mol) are then run in dropwise with stirring and while cooling at 0° C. When the addition is finished, the reaction mixture is heated progressively to 55° C. over 2 hours and then evaporated to dryness. The residue is taken up in 200 ml of tetrahydrofuran and then poured dropwise into a solution containing 58 ml (0.55 mol) of diethylamine in 200 ml of tetrahydrofuran maintained at a temperature below 10° C. When the addition is finished, the reaction mixture is stirred at room temperature for one hour and then evaporated to dryness. The residue is taken up in dichloromethane and washed successively with 1N HCl and distilled water. After drying over magnesium sulfate, the organic phase is evaporated under reduced pressure to provide 62.3 g (yield: 89%) of N,N-diethyl-2-(3,4-dimethoxyphenyl)-4-(trifluoromethyl)benzamide in the form of a white solid melting at 109°-110° C.

reactant | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
reactant | 2-(3,4-dimethoxyphenyl)-4-(trifluoromethyl)benzoic acid | 0.184 mol, 60 g | COC=1C=C(C=CC1OC)C1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C16H13F3O4
reactant | thionyl chloride | 0.276 mol, 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 0.55 mol, 58 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N,N-diethyl-2-(3,4-dimethoxyphenyl)-4-(trifluoromethyl)benzamide | 62.3 g, yield: 89% | C(C)N(C(C1=C(C=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)OC)OC)=O)CC | C20H22F3NO3
